US06048823
Preparation of 3-(4-chlorophenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyridine
To 200 ml of toluene, 6.7 g (35 mmol) of 4-chlorophenylacetyl chloride and 14.0 g (71 mmol) of ethyl 3-methylamino-4,4,4-trifluorocrotonate were added, followed by stirring for 8 hours under heating and refluxing. After completion of the reaction, the reaction solution was washed with water and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. Toluene was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography. This crotonic acid ester was dissolved in 20 ml of THF and dropwise added to a LDA-THF solution [prepared from 54 ml (86 mmol) of a 1.6N-n-butyllithium-hexane solution, 11.3 g (112 mmol) of diisopropylamine and 200 ml of THF] under cooling to -65 to -60° C., followed by stirring at room temperature for 2 hours. After completion of the reaction, excess THF was distilled off, and a 10% citric acid aqueous solution was added thereto. Precipitated crude crystals were washed with ethyl acetate to obtain 3.6 g (yield: 34%) of the desired product.

reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-chlorophenylacetyl chloride | 35 mmol, 6.7 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | ethyl 3-methylamino-4,4,4-trifluorocrotonate | 71 mmol, 14.0 g | CN\C(=C/C(=O)OCC)\C(F)(F)F | C7H10F3NO2
reactant | diisopropylamine | 112 mmol, 11.3 g | C(C)(C)NC(C)C | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-(4-chlorophenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyridine | 3.6 g, yield: 34% | ClC1=CC=C(C=C1)C1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H9ClF3NO2
